US05439911
Triethylamine (0.19 g, 1.88 mmol) was added to a solution of ethyl 4-chloro-6-ethylpyrimidine-5-carboxylate (0.20 g, 0.93 mmol) in toluene (4 ml). The mixture was stirred at room temperature. Then, 4-butylthiophenethylamine (0.20 g, 0.96 mmol) was added. After stirring for 3 hours, water (20 ml) was added to the reaction mixture. The mixture was extracted with ethyl acetate and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (=8/2) to give the desired ethyl 4-(2-(4-butylthiophenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate (0.20 g, 55%).

reactant | Triethylamine | 1.88 mmol, 0.19 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 4-chloro-6-ethylpyrimidine-5-carboxylate | 0.93 mmol, 0.20 g | ClC1=NC=NC(=C1C(=O)OCC)CC | C9H11ClN2O2
reactant | 4-butylthiophenethylamine | 0.96 mmol, 0.20 g | C(CCC)SC1=CC=C(CCN)C=C1 | C12H19NS
reactant | water | 20 ml | O | H2O
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-(2-(4-butylthiophenyl)ethylamino)-6-ethylpyrimidine-5-carboxylate | 0.20 g, 55% | C(CCC)SC1=CC=C(C=C1)CCNC1=NC=NC(=C1C(=O)OCC)CC | C21H29N3O2S
